US08207160B2
N-[3-(Trifluoroacetyl)-2,3,4,5-Tetrahydro-1H-3-Benzazepin-7-yl]4-(Trifluoromethyl)Benzenesulfonamide
1 g (2.68 mmol) of 3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine-7-amine and 947 mg (3.87 mmol) of 4-(trifluoromethyl)benzenesulfonyl chloride were dissolved in 20 ml of tetrahydrofuran at room temperature, and 1.62 ml (11.62 mmol) of triethylamine were added dropwise to the solution, which was stirred at room temperature overnight. After evaporation of the solvent, 20 ml of water were added and acidified with 1 mol of hydrochloric acid, and the aqueous phase was extracted with 50 ml of diethyl ether. The residue obtained after drying with sodium sulfate and after removal of the solvent was separated by column chromatography (cyclohexane/ethyl acetate 6:1).

reactant | 3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine-7-amine | 2.68 mmol, 1 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)N)(F)F | C12H13F3N2O
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 3.87 mmol, 947 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | triethylamine | 11.62 mmol, 1.62 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[3-(Trifluoroacetyl)-2,3,4,5-Tetrahydro-1H-3-Benzazepin-7-yl]4-(Trifluoromethyl)Benzenesulfonamide | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C19H16F6N2O3S
